US08258119B2
3-Chloro-3-phenylprop-2-enenitrile:
To an ice cold (0-5° C.) solution of dry dimethylformamide (25.6 mL, 333.2 mmol) was added phosphorous oxychloride (15.6 mL, 166.6 mmol) dropwise with stirring for 15 min. To this cold mixture, acetophenone (10 g, 83 mmol) was added dropwise maintaining the temperature of the reaction mixture between 45-55° C. for 10 min. The reaction mixture was slowly allowed to rt and stand for 30 min. To the reaction mixture, 7 mL of a total solution of hydroxylamine hydrochloride (23.1 g, 333.2 mmol) in dry DMF (33 mL) was added and the mixture was stirred at 70-80° C. for 5 min. Then the remaining solution of hydroxylamine hydrochloride in DMF was added thereafter at such a rate that the temperature of the reaction mixture rise above 145-155° C. After completion of the addition, the reaction mixture was allowed to rt for 30 min and diluted with cold water (0.5 L). The solution was extracted with chloroform and the chloroform layer was washed with water, brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent. The residue was chromatographed over silica gel using hexane-ethyl acetate (98:2) as eluents to give the product as an oil (7 g, 52%). 1H NMR (400 MHz, CDCl3): δ 7.64-7.67 (2H, m), 7.43-7.53 (3H, m), 6.02 (1H, s).

reactant | phosphorous oxychloride | 166.6 mmol, 15.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | acetophenone | 83 mmol, 10 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | hydroxylamine hydrochloride | 333.2 mmol, 23.1 g | Cl.NO
reactant | DMF | 33 mL | CN(C)C=O | C3H7NO
reactant | dimethylformamide | 333.2 mmol, 25.6 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 L | O | H2O
product | 3-Chloro-3-phenylprop-2-enenitrile | 7 g, 52% | ClC(=CC#N)C1=CC=CC=C1 | C9H6ClN
